US06358980B1
1-(tert-butyl) 4-ethyl 4-({[4-(2-butynyloxy)phenyl]sulfanyl}methyl)-1,4-piperidinedicarboxylate
A mixture of 0.294 g (0.74 mmol) of 1-(tert-Butyl) 4-ethyl 4-(iodomethyl)piperidine-1,4-dicarboxylate, 0.145 (0.814 mmol) of 4-but-2-ynyloxy-benzenethiol and 0.204 g (1.48 mmol) of K2CO3 in 2.0 mL of DMF was stirred at room temperature for 18 h. The resulting mixture was diluted with EtOAc, washed with H2O, brine, dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel eluting with EtOAc:Hexanes (1:19) to provide 0.328 g (99%) of the desired product as a colorless oil. Electrospray Mass Spec: 448.3 (M+H)+

reactant | 1-(tert-Butyl) 4-ethyl 4-(iodomethyl)piperidine-1,4-dicarboxylate | 0.74 mmol, 0.294 g | ICC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C14H24INO4
reactant | 4-but-2-ynyloxy-benzenethiol | C(C#CC)OC1=CC=C(C=C1)S | C10H10OS
reactant | K2CO3 | 1.48 mmol, 0.204 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(tert-butyl) 4-ethyl 4-({[4-(2-butynyloxy)phenyl]sulfanyl}methyl)-1,4-piperidinedicarboxylate | 0.328 g, 99% | C(C#CC)OC1=CC=C(C=C1)SCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C24H33NO5S
